US08871756B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and oxetane-3,3-diyldimethanamine. MS obsd. (ESI+) [(M+H)+] 453, 1H NMR (400 MHz, CD3OD) δ ppm 8.04 (d, J=1.8 Hz, 1 H), 7.90 (d, J=1.9 Hz, 1 H), 7.81 (s, 1 H), 7.67 (t, J=3.6 Hz, 1 H), 7.57 (d, J=2.1 Hz, 1 H), 7.52 (t, J=3.8 Hz, 1 H), 7.43 (d, J=2.1 Hz, 1 H), 6.21 (s, 1 H), 5.26 (s, 2 H), 4.63 (s, 4 H), 4.55 (brs, 2 H), 3.82 (s, 2 H), 3.67 (t, J=2.4 Hz, 2 H), 3.45 (brs, 2 H), 2.46 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NCC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H28N4O3S
